US07838524B2
Preparation of 4-bromo-N-(2-morpholin-4-yl-ethyl)-2-trifluoromethoxy-benzene sulfonamide
The title compound was prepared in the same manner as described for 4-bromo-2-methyl-N-(2-morpholin-4-yl-ethyl)benzene sulfonamide, replacing 4-bromo-2-methyl-benzene sulfonyl chloride with 4-bromo-2-trifluoromethoxybenzene sulfonyl chloride. 1H-NMR (DMSO-d6) δ 7.88 to 7.77 (m, 4H), 3.43 (t, J=4.2 Hz, 4H), 2.99 to 2.97 (broad s, 2H), 2.29 to 2.20 (m, 6H); MS LC-MS [M+H]+=433 & 435, RT=2.03 min.

reactant | 4-bromo-2-methyl-N-(2-morpholin-4-yl-ethyl)benzene sulfonamide | BrC1=CC(=C(C=C1)S(=O)(=O)NCCN1CCOCC1)C | C13H19BrN2O3S
reactant | 4-bromo-2-trifluoromethoxybenzene sulfonyl chloride | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)OC(F)(F)F | C7H3BrClF3O3S
product | 4-bromo-N-(2-morpholin-4-yl-ethyl)-2-trifluoromethoxy-benzene sulfonamide | BrC1=CC(=C(C=C1)S(=O)(=O)NCCN1CCOCC1)OC(F)(F)F | C13H16BrF3N2O4S
